US07555415B2
Step 2: 4-[1-allyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol
1-allyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole (0.065 g, 0.18 mmol) in CH2Cl2 containing 1.0 mL of cyclohexene at −78° C. was treated with boron tribromide (0.136 mL, 1.4 mmol) and slowly allowed to warm to ambient temperature. The reaction was quenched by dropwise edition of CH3OH to the cooled reaction. The solvent was removed in vacuo and the residue partitioned with EtOAc and 1 N HCl. The organic phase was washed with brine and dried (Na2SO4). Removal of the solvent in vacuo afforded the crude product. Pure product was obtained by crystallization or flash chromatography through water deactivated silica gel. A sample of 0.066 g was obtained as a white solid.

reactant | 1-allyl-3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole | 0.18 mmol, 0.065 g | C(C=C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)OC)OC | C19H17F3N2O2
reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | boron tribromide | 1.4 mmol, 0.136 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-allyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol | C(C=C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)O)O | C17H13F3N2O2
